US07351778B2
(2) Preparation of ethyl 2-benzyl-3-hydroxybutyrate
0.05 Mol of NaBH4 and 0.4 g of NaOH were added into 25 ml of water. While cooling the reactor in ice bath, a mixture of 0.07 mol of ethyl 2-benzyl-3-oxo-butyrate and 30 ml of methanol was added dropwise with stirring, and the reaction was stirred at room temperature for 5 hours. After removing the solvent, the product was extracted with ethyl acetate, and the extract was dried over anhydrous Na2SO4. Removing the solvent gave a colorless liquid of 0.06 mol. Yield 85%.

reactant | NaBH4 | 0.05 Mol | [BH4-].[Na+]
reactant | NaOH | 0.4 g | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
reactant | ethyl 2-benzyl-3-oxo-butyrate | 0.07 mol | C(C1=CC=CC=C1)C(C(=O)OCC)C(C)=O | C13H16O3
solvent | methanol | 30 ml | CO | CH4O
product | ethyl 2-benzyl-3-hydroxybutyrate | Yield 85% | C(C1=CC=CC=C1)C(C(=O)OCC)C(C)O | C13H18O3
